US08012974B2
In an oven dried flask was added 5-(2-trimethylsilanyl-ethoxymethyl)-5H pyrrolo[2,3-b]pyrazin-2-ylamine (0.118 g, 0.45 mmol), DIPEA (0.275 mL, 1.58 mmol) and 5 mL DCM and the flask cooled under N2 in a dry ice acetone bath. A 20% solution of phosgene in toluene was added (0.284 mL, 0.54 mmol) and the purplish red solution was stirred for 20 minutes then warmed to −20° C. A solution of trans 2-(3-amino-cyclopentyl)-5,6-dichloro-isoindole-1,3-dione (0.143 g, est 0.5 mmol, mixture with monochloro derivative) in 8 mL DMF was added and stirred for 60 minutes, quench with MeOH and concentrated in vacuo. The residue was mixed with MeOH, filtered and the solid rinsed with MeOH and dried in vacuo to give trans 1-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-cyclopentyl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.196 g, 75% yield).

reactant | 5-(2-trimethylsilanyl-ethoxymethyl)-5H pyrrolo[2,3-b]pyrazin-2-ylamine | 0.45 mmol, 0.118 g | C[Si](CCOCN1C=CC=2C1=NC=C(N2)N)(C)C | C12H20N4OSi
reactant | DIPEA | 1.58 mmol, 0.275 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | trans 2-(3-amino-cyclopentyl)-5,6-dichloro-isoindole-1,3-dione | 0.5 mmol, 0.143 g | N[C@@H]1C[C@H](CC1)N1C(C2=CC(=C(C=C2C1=O)Cl)Cl)=O | C13H12Cl2N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | trans 1-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-cyclopentyl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.196 g, 75% yield | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1C[C@H](CC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C26H32N6O4Si
